US08895313B2
3,4-Difluoro-N-[4-(6-methylimidazo[1,2-a]pyridin-2-yl)phenyl]benzamide
Prepared as described in the Amide Coupling section using 4-(6-methylimidazo[1,2-a]pyridin-2-yl)aniline (0.50 g, 2.24 mmol) and 3,4-difluorobenzoyl chloride (0.395 g, 2.24 mmol) in dry pyridine (20 ml) to give the title compound (0.556 g, 68%) as a colourless solid after work-up and recrystallisation from AcOH.

reactant | 4-(6-methylimidazo[1,2-a]pyridin-2-yl)aniline | 2.24 mmol, 0.50 g | CC=1C=CC=2N(C1)C=C(N2)C2=CC=C(N)C=C2 | C14H13N3
reactant | 3,4-difluorobenzoyl chloride | 2.24 mmol, 0.395 g | FC=1C=C(C(=O)Cl)C=CC1F | C7H3ClF2O
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 3,4-Difluoro-N-[4-(6-methylimidazo[1,2-a]pyridin-2-yl)phenyl]benzamide | 0.556 g, 68% | FC=1C=C(C(=O)NC2=CC=C(C=C2)C=2N=C3N(C=C(C=C3)C)C2)C=CC1F | C21H15F2N3O
